.title kicad schematic

* u29 net-_u29-pad1_ net-_u12-pad2_ net-_u29-pad3_ d_and
* u28 net-_u34-pad1_ net-_u32-pad2_ net-_u28-pad3_ d_and
* u27 net-_u25-pad1_ net-_u12-pad2_ net-_u27-pad3_ d_and
* u63 net-_u53-pad2_ 7 dac_bridge_1
* u42 net-_u27-pad3_ net-_u28-pad3_ net-_u42-pad3_ d_and
* u52 net-_u42-pad3_ net-_u52-pad2_ d_inverter
* u62 net-_u52-pad2_ 6 dac_bridge_1
* u43 net-_u29-pad3_ net-_u30-pad3_ net-_u43-pad3_ d_and
* u53 net-_u43-pad3_ net-_u53-pad2_ d_inverter
* u1 net-_u1-pad1_ net-_u32-pad2_ d_buffer
* u73 7 plot_v1
* u72 6 plot_v1
* u77 net-_u4-pad2_ net-_u1-pad1_ d_inverter
* u5 net-_u5-pad1_ net-_u34-pad1_ d_buffer
* u69 3 plot_v1
* u59 net-_u49-pad2_ 3 dac_bridge_1
* u67 1 plot_v1
* u57 net-_u47-pad2_ 1 dac_bridge_1
* u68 2 plot_v1
* u58 net-_u48-pad2_ 2 dac_bridge_1
* u61 net-_u51-pad2_ 5 dac_bridge_1
* u70 4 plot_v1
* u60 net-_u50-pad2_ 4 dac_bridge_1
* u71 5 plot_v1
* u41 net-_u25-pad3_ net-_u26-pad3_ net-_u41-pad3_ d_and
* u51 net-_u41-pad3_ net-_u51-pad2_ d_inverter
* u40 net-_u23-pad3_ net-_u24-pad3_ net-_u40-pad3_ d_and
* u39 net-_u21-pad3_ net-_u22-pad3_ net-_u39-pad3_ d_and
* u49 net-_u39-pad3_ net-_u49-pad2_ d_inverter
* u50 net-_u40-pad3_ net-_u50-pad2_ d_inverter
* u47 net-_u37-pad3_ net-_u47-pad2_ d_inverter
* u37 net-_u17-pad3_ net-_u18-pad3_ net-_u37-pad3_ d_and
* u48 net-_u38-pad3_ net-_u48-pad2_ d_inverter
* u38 net-_u19-pad3_ net-_u20-pad3_ net-_u38-pad3_ d_and
* u79 net-_u12-pad2_ net-_u79-pad2_ d_inverter
* u9 net-_u79-pad2_ net-_u9-pad2_ d_buffer
* u13 net-_u13-pad1_ net-_u29-pad1_ d_buffer
* u80 net-_u25-pad1_ net-_u13-pad1_ d_inverter
* u11 14 net-_u11-pad2_ adc_bridge_1
* u10 14 plot_v1
* u15 15 net-_u15-pad2_ adc_bridge_1
* u14 15 plot_v1
v2 13 gnd pulse(5 0 0 10n 10n 1m 2m)
v1 12 gnd pulse(0 0 0 10n 10n 1m 2m)
* u6 13 plot_v1
* u2 12 plot_v1
* u3 12 net-_u3-pad2_ adc_bridge_1
* u7 13 net-_u7-pad2_ adc_bridge_1
v3 14 gnd pulse(5 5 0 10n 10n 1m 2m)
v4 15 gnd pulse(0 0 0 10n 10n 1m 2m)
* u16 net-_u15-pad2_ net-_u25-pad1_ d_inverter
* u12 net-_u11-pad2_ net-_u12-pad2_ d_inverter
* u8 net-_u7-pad2_ net-_u36-pad1_ d_inverter
* u4 net-_u3-pad2_ net-_u4-pad2_ d_inverter
* u78 net-_u36-pad1_ net-_u5-pad1_ d_inverter
* u26 net-_u34-pad1_ net-_u4-pad2_ net-_u26-pad3_ d_and
* u25 net-_u25-pad1_ net-_u12-pad2_ net-_u25-pad3_ d_and
* u23 net-_u29-pad1_ net-_u12-pad2_ net-_u23-pad3_ d_and
* u24 net-_u34-pad1_ net-_u4-pad2_ net-_u24-pad3_ d_and
* u22 net-_u34-pad1_ net-_u4-pad2_ net-_u22-pad3_ d_and
* u30 net-_u34-pad1_ net-_u32-pad2_ net-_u30-pad3_ d_and
* u32 net-_u34-pad1_ net-_u32-pad2_ net-_u32-pad3_ d_and
* u31 net-_u29-pad1_ net-_u9-pad2_ net-_u31-pad3_ d_and
* u45 net-_u33-pad3_ net-_u34-pad3_ net-_u45-pad3_ d_and
* u44 net-_u31-pad3_ net-_u32-pad3_ net-_u44-pad3_ d_and
* u55 net-_u45-pad3_ net-_u55-pad2_ d_inverter
* u54 net-_u44-pad3_ net-_u54-pad2_ d_inverter
* u75 9 plot_v1
* u65 net-_u55-pad2_ 9 dac_bridge_1
* u74 8 plot_v1
* u64 net-_u54-pad2_ 8 dac_bridge_1
* u76 10 plot_v1
* u66 net-_u56-pad2_ 10 dac_bridge_1
* u56 net-_u46-pad3_ net-_u56-pad2_ d_inverter
* u46 net-_u35-pad3_ net-_u36-pad3_ net-_u46-pad3_ d_and
* u35 net-_u25-pad1_ net-_u9-pad2_ net-_u35-pad3_ d_and
* u34 net-_u34-pad1_ net-_u32-pad2_ net-_u34-pad3_ d_and
* u33 net-_u25-pad1_ net-_u9-pad2_ net-_u33-pad3_ d_and
* u36 net-_u36-pad1_ net-_u32-pad2_ net-_u36-pad3_ d_and
* u21 net-_u29-pad1_ net-_u9-pad2_ net-_u21-pad3_ d_and
* u20 net-_u34-pad1_ net-_u4-pad2_ net-_u20-pad3_ d_and
* u19 net-_u25-pad1_ net-_u9-pad2_ net-_u19-pad3_ d_and
* u18 net-_u36-pad1_ net-_u4-pad2_ net-_u18-pad3_ d_and
* u17 net-_u25-pad1_ net-_u9-pad2_ net-_u17-pad3_ d_and
a1 [net-_u29-pad1_ net-_u12-pad2_ ] net-_u29-pad3_ u29
a2 [net-_u34-pad1_ net-_u32-pad2_ ] net-_u28-pad3_ u28
a3 [net-_u25-pad1_ net-_u12-pad2_ ] net-_u27-pad3_ u27
a4 [net-_u53-pad2_ ] [7 ] u63
a5 [net-_u27-pad3_ net-_u28-pad3_ ] net-_u42-pad3_ u42
a6 net-_u42-pad3_ net-_u52-pad2_ u52
a7 [net-_u52-pad2_ ] [6 ] u62
a8 [net-_u29-pad3_ net-_u30-pad3_ ] net-_u43-pad3_ u43
a9 net-_u43-pad3_ net-_u53-pad2_ u53
a10 net-_u1-pad1_ net-_u32-pad2_ u1
a11 net-_u4-pad2_ net-_u1-pad1_ u77
a12 net-_u5-pad1_ net-_u34-pad1_ u5
a13 [net-_u49-pad2_ ] [3 ] u59
a14 [net-_u47-pad2_ ] [1 ] u57
a15 [net-_u48-pad2_ ] [2 ] u58
a16 [net-_u51-pad2_ ] [5 ] u61
a17 [net-_u50-pad2_ ] [4 ] u60
a18 [net-_u25-pad3_ net-_u26-pad3_ ] net-_u41-pad3_ u41
a19 net-_u41-pad3_ net-_u51-pad2_ u51
a20 [net-_u23-pad3_ net-_u24-pad3_ ] net-_u40-pad3_ u40
a21 [net-_u21-pad3_ net-_u22-pad3_ ] net-_u39-pad3_ u39
a22 net-_u39-pad3_ net-_u49-pad2_ u49
a23 net-_u40-pad3_ net-_u50-pad2_ u50
a24 net-_u37-pad3_ net-_u47-pad2_ u47
a25 [net-_u17-pad3_ net-_u18-pad3_ ] net-_u37-pad3_ u37
a26 net-_u38-pad3_ net-_u48-pad2_ u48
a27 [net-_u19-pad3_ net-_u20-pad3_ ] net-_u38-pad3_ u38
a28 net-_u12-pad2_ net-_u79-pad2_ u79
a29 net-_u79-pad2_ net-_u9-pad2_ u9
a30 net-_u13-pad1_ net-_u29-pad1_ u13
a31 net-_u25-pad1_ net-_u13-pad1_ u80
a32 [14 ] [net-_u11-pad2_ ] u11
a33 [15 ] [net-_u15-pad2_ ] u15
a34 [12 ] [net-_u3-pad2_ ] u3
a35 [13 ] [net-_u7-pad2_ ] u7
a36 net-_u15-pad2_ net-_u25-pad1_ u16
a37 net-_u11-pad2_ net-_u12-pad2_ u12
a38 net-_u7-pad2_ net-_u36-pad1_ u8
a39 net-_u3-pad2_ net-_u4-pad2_ u4
a40 net-_u36-pad1_ net-_u5-pad1_ u78
a41 [net-_u34-pad1_ net-_u4-pad2_ ] net-_u26-pad3_ u26
a42 [net-_u25-pad1_ net-_u12-pad2_ ] net-_u25-pad3_ u25
a43 [net-_u29-pad1_ net-_u12-pad2_ ] net-_u23-pad3_ u23
a44 [net-_u34-pad1_ net-_u4-pad2_ ] net-_u24-pad3_ u24
a45 [net-_u34-pad1_ net-_u4-pad2_ ] net-_u22-pad3_ u22
a46 [net-_u34-pad1_ net-_u32-pad2_ ] net-_u30-pad3_ u30
a47 [net-_u34-pad1_ net-_u32-pad2_ ] net-_u32-pad3_ u32
a48 [net-_u29-pad1_ net-_u9-pad2_ ] net-_u31-pad3_ u31
a49 [net-_u33-pad3_ net-_u34-pad3_ ] net-_u45-pad3_ u45
a50 [net-_u31-pad3_ net-_u32-pad3_ ] net-_u44-pad3_ u44
a51 net-_u45-pad3_ net-_u55-pad2_ u55
a52 net-_u44-pad3_ net-_u54-pad2_ u54
a53 [net-_u55-pad2_ ] [9 ] u65
a54 [net-_u54-pad2_ ] [8 ] u64
a55 [net-_u56-pad2_ ] [10 ] u66
a56 net-_u46-pad3_ net-_u56-pad2_ u56
a57 [net-_u35-pad3_ net-_u36-pad3_ ] net-_u46-pad3_ u46
a58 [net-_u25-pad1_ net-_u9-pad2_ ] net-_u35-pad3_ u35
a59 [net-_u34-pad1_ net-_u32-pad2_ ] net-_u34-pad3_ u34
a60 [net-_u25-pad1_ net-_u9-pad2_ ] net-_u33-pad3_ u33
a61 [net-_u36-pad1_ net-_u32-pad2_ ] net-_u36-pad3_ u36
a62 [net-_u29-pad1_ net-_u9-pad2_ ] net-_u21-pad3_ u21
a63 [net-_u34-pad1_ net-_u4-pad2_ ] net-_u20-pad3_ u20
a64 [net-_u25-pad1_ net-_u9-pad2_ ] net-_u19-pad3_ u19
a65 [net-_u36-pad1_ net-_u4-pad2_ ] net-_u18-pad3_ u18
a66 [net-_u25-pad1_ net-_u9-pad2_ ] net-_u17-pad3_ u17
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u27 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u63 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u42 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u52 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u62 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u43 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u53 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u1 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u77 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u5 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u59 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u57 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u58 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u61 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u60 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u41 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u51 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u40 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u49 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u50 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u47 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u37 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u48 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u79 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u9 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u13 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u80 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u78 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u26 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u25 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u24 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u30 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u32 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u31 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u45 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u44 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u55 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u54 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u65 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u64 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u66 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u56 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u46 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u35 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u34 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u33 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u17 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0.01e-03 2e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(7)
plot v(6)
plot v(3)
plot v(1)
plot v(2)
plot v(4)
plot v(5)
plot v(14)
plot v(15)
plot v(13)
plot v(12)
plot v(9)
plot v(8)
plot v(10)
.endc
.end
